US08809371B2
A methanol (10 ml) solution containing 2-methoxy-7-nitroquinoline (33 mg) obtained in the 1st step was prepared and subjected to a hydrogenation reaction (60° C.; 50 bar; flow rate: 1 ml/min; 10% Pd/C) using H-cube™. Then, the solvent was distilled away under reduced pressure, and a purple solid of 2-methoxyquinolin-7-amine (28 mg) was thus obtained.

reactant | 2-methoxy-7-nitroquinoline | 33 mg | COC1=NC2=CC(=CC=C2C=C1)[N+](=O)[O-] | C10H8N2O3
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 2-methoxyquinolin-7-amine | 28 mg | COC1=NC2=CC(=CC=C2C=C1)N | C10H10N2O
